US09428509B2
2-Chloro-5-(pyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
To a solution of 2,4-dichloro-5-(pyridin-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv) in 1,4-dioxane (0.4 M) in a sealable vessel was added tetrahydro-2H-pyran-4-amine hydrochloride (1.5 equiv) and triethylamine (3 equiv). The resulting mixture was heated at 120° C. for 2 h under nitrogen atmosphere. After the reaction was complete, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-30% ethyl acetate in petroleum ether) to afford the desired product (34% yield) as a yellow solid. MS (ESI) m/z 460.2 [M+1]+.

reactant | 2,4-dichloro-5-(pyridin-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)COCC[Si](C)(C)C)Cl | C17H20Cl2N4OSi
reactant | tetrahydro-2H-pyran-4-amine hydrochloride | 1.5 equiv | Cl.O1CCC(CC1)N
reactant | triethylamine | 3 equiv | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 0.4 M | O1CCOCC1 | C4H8O2
product | 2-Chloro-5-(pyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 34% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)COCC[Si](C)(C)C)NC2CCOCC2 | C22H30ClN5O2Si
